data/oMe_Silver.jsonl
{"reaction_id": "NR-231_1-c1ccc2ccccc2c1_2-C","level": "medium","name": "Seyferth-Gilbert Homologation","reactants_smiles": ["C(=O)(c1ccc2ccccc2c1)([H])","COP(=O)(OC)C=[N+]=[N-]"],"products_smiles": ["C#[C]c1ccc2ccccc2c1"],"conditions": "[O-]C(C)(C)C","mechanism_step_nums": 6,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "COP(=O)(OC)[C-]=[N+]=[N-]","step_weight": 0,"rationale": "Strong base deprotonates the acidic methylene adjacent to the phosphonate, stabilized by resonance with the electron-withdrawing phosphonate and diazo group."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "COP(=O)(OC)C(=[N+]=[N-])C([O-])(c1ccc2ccccc2c1)([H])","step_weight": 0,"rationale": "The nucleophilic carbanion attacks the electrophilic aldehyde carbon, driven by the strong polarization of the C=O bond and stabilization of the alkoxide intermediate."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "COP1([O-])(OC)C(=[N+]=[N-])C(O1)(c1ccc2ccccc2c1)([H])","step_weight": 0,"rationale": "Intramolecular cyclization occurs as the alkoxide attacks the electrophilic phosphorus, favored by proximity and relief of negative charge through P–O bond formation."},{"step": 4,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=C=[N+]=[N-])(c1ccc2ccccc2c1)([H])","step_weight": 0,"rationale": "Elimination of the phosphonate leaving group is promoted by its resonance stabilization and the driving force of forming a conjugated diazoalkene."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "C(=[C])(c1ccc2ccccc2c1)([H])","step_weight": 0,"rationale": "Loss of nitrogen gas from the diazo group is highly favorable due to the extreme stability of N₂, generating a reactive carbene or alkyne precursor."},{"step": 6,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "C#[C]c1ccc2ccccc2c1","step_weight": 0,"rationale": "A 1,2-shift rearranges substituents to form the thermodynamically stable terminal alkyne, driven by formation of a strong C≡C bond."}],"description": "Under basic conditions, the Seyferth–Gilbert homologation converts aldehydes to terminal alkynes via deprotonation of the phosphonate reagent, nucleophilic addition to the carbonyl, cyclization, and sequential eliminations, followed by a rearrangement that forms the C≡C bond. The base promotes anionic intermediates and facilitates leaving group departure."}
{"reaction_id": "NR-312_10-c2ccccc2_1-c2ccc(C(C)(C)C)cc2_2-C1CCCCC1_3-OC_4-OCC_5-OC(C)C_6-C_7-S(=O)(=O)N(C)C_8-S(=O)(=O)C_9-F","level": "easy","name": "Ullmann Condensation","reactants_smiles": ["c1(c2ccc(C(C)(C)C)cc2)c(C1CCCCC1)c(OC)c(OCC)c(OC(C)C)c1O","c1(C)c(S(=O)(=O)N(C)C)c(S(=O)(=O)C)c(F)c(c2ccccc2)c1I"],"products_smiles": ["c1(c2ccc(C(C)(C)C)cc2)c(C1CCCCC1)c(OC)c(OCC)c(OC(C)C)c1Oc2c(C)c(S(=O)(=O)N(C)C)c(S(=O)(=O)C)c(F)c2(c2ccccc2)"],"conditions": "CuI, Base","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "c1(c2ccc(C(C)(C)C)cc2)c(C1CCCCC1)c(OC)c(OCC)c(OC(C)C)c1[O-]","step_weight": 0,"rationale": "Base deprotonates phenol because the phenolic proton is acidic and the resulting phenoxide is resonance-stabilized, increasing nucleophilicity for subsequent copper-mediated coupling."},{"step": 2,"type": "addition","subtype": "oxidative_addition","intermediate_smiles": "c1(C)c(S(=O)(=O)N(C)C)c(S(=O)(=O)C)c(F)c(c2ccccc2)c1[Cu](I)I","step_weight": 0,"rationale": "Cu(I) undergoes oxidative addition into the aryl–iodine bond due to the good leaving group ability of iodide and the polarizable C–I bond, forming a reactive aryl–Cu(III) species."},{"step": 3,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "c2(C)c(S(=O)(=O)N(C)C)c(S(=O)(=O)C)c(F)c(c2ccccc2)c2[Cu](I)Oc1c(c2ccc(C(C)(C)C)cc2)c(C1CCCCC1)c(OC)c(OCC)c1(OC(C)C)","step_weight": 0,"rationale": "The phenoxide oxygen attacks the aryl–Cu complex via nucleophilic substitution, favored by the strong Cu–O bond formation and the activated aryl group bound to copper."},{"step": 4,"type": "elimination","subtype": "reductive_elimination","intermediate_smiles": "c1(c2ccc(C(C)(C)C)cc2)c(C1CCCCC1)c(OC)c(OCC)c(OC(C)C)c1Oc2c(C)c(S(=O)(=O)N(C)C)c(S(=O)(=O)C)c(F)c2(c2ccccc2)","step_weight": 0,"rationale": "Reductive elimination from Cu(III) forms the C–O bond of the biaryl ether, driven by the thermodynamic stability of the product and regeneration of the Cu(I) catalyst."}],"description": "In the Ullmann condensation, the phenol is first deprotonated by base to form a nucleophilic phenoxide. Copper(I) catalyzes the coupling by oxidative addition to the aryl iodide, enabling nucleophilic attack and subsequent reductive elimination to form the biaryl ether linkage."}
